Mutual inductance test circuit
.param L1 = .56
.param L2 = .79
.param K12 = .75
.param Rsource = 22
.param Rload = 75

* using 'k' pseudo element
.subckt trans2a (a1 a2 b1 b2)
k1 (l1 l2) k=K12
l1 (a1 a2) {L1}
l2 (b1 b2) {L2}
.ends

* T model, requires a common terminal
.subckt trans2b (a com b)
.param M12 = {K12*sqrt(L1*L2)}
l2a (a 6)   {L1-M12}
l2b (6 com) {M12}
l2c (6 b)   {L2-M12}
.ends

* series model, using VCVS
.subckt trans2c (a1 a2 b1 b2)
.param M12 = {K12*sqrt(L1*L2)}
l3a (10 a2)       {L1}
l3b (11 b2)       {L2}
e3a (a1 10 11 b2) {M12/L2}
e3b (b1 11 10 a2) {M12/L1}
.ends

* parallel model, using CCCS
.subckt trans2d (a1 a2 b1 b2)
.param M12 = {K12*sqrt(L1*L2)}
l1 (a1 a2)  {(1-K12*K12)*L1}
l2 (b1 b2)  {(1-K12*K12)*L2}
f1 a1 a2 l2 {-M12/L1}
f2 b1 b2 l1 {-M12/L2}
.ends



v1  (1 0)     pulse(0 1 .002 .002 .002 .002 .01) ac 1
r1a (1 2)     {Rsource}
x1  (2 0 3 0) trans2a L1=L1 L2=L2 K12=K12
r1b (3 0)     {Rload}

v2 4 0  pulse(0 1 .002 .002 .002 .002 .01) ac 1
r2a 4 5 {Rsource}
x2 5 0 7 0 trans2d L1=L1 L2=L2 K12=K12
r2b 7 0 {Rload}

v3 8 0  pulse(0 1 .002 .002 .002 .002 .01) ac 1
r3a 8 9 {Rsource}
x3 9 0 12 0 trans2c L1=L1 L2=L2 K12=K12
r3b 12 0 {Rload}

.options nopage
.list
.width out=132
.print ac v(2) v(3) v(5) v(7) v(9) v(12)
.ac dec 2 .1 1k
.print tran v(2) v(3) v(5) v(7) v(9) v(12)
.tran .001 .01 0 .0001
.list
.status notime
.end
